
.include ../techno/bsim4_dummy.hsp

.temp 25

.global vdd
.global vss
.global vddprch

.param g_l=0.1u
.param g_w=0.6u
.param cellcapa=100ff
.param pi_r=5000
.param pi_c=0.5pf


vvdd vdd 0 1v
vvss vss 0 0v
vvddprch vddprch 0 0.6v

.subckt inv i o
+ l=0.1u w=0.6u
mn vss i o vss tn l=l w=w
mp vdd i o vdd tp l=l w='w*2'
.ends

.subckt nand a b o
+ w=1u l=0.08u
Mn1 o a int vss TN w='w' l=l
Mn2 int b vss vss TN w='w' l=l
Mp1 o a vdd vdd TP w='w*2' l=l
Mp2 o b vdd vdd TP w='w*2' l=l
.ends

.subckt nor a b o
+ w=1u l=0.08u
Mp1 o a int vdd TP w='w*2' l=l
Mp2 int b vdd vdd TP w='w*2' l=l
Mn1 o a vss vss TN w='w' l=l
Mn2 o b vss vss TN w='w' l=l
.ends

.subckt delay a o
+ w=1u l=0.08u
Mp1 o a int0 vdd TP w='w*2' l=l
Mp2 int0 a int1 vdd TP w='w*2' l=l
Mp3 int1 a vdd vdd TP w='w*2' l=l
Mn1 o a int0s vss TN w='w*2' l=l
Mn2 int0s a int1s vss TN w='w*2' l=l
Mn3 int1s a vss vss TN w='w*2' l=l
.ends

.subckt switch i o cp cn
+ w=1u l=0.08u
Mp1 o cp i vdd TP w='w*2' l=l
Mn1 o cn i vss TN w='w' l=l
.ends

.subckt buff i o
xb0 i r inv
xb1 r o inv
.ends

.subckt prech bl blb prch
+ w=1u l=0.08u
Mp1 bl prch blb vddprch TP w='w*2' l=l
Mp2 vddprch prch blb vddprch TP w='w*2' l=l
Mp3 vddprch prch bl vddprch TP w='w*2' l=l
.ends

.subckt xor i0 i1 q
+ w=1u l=0.08u
Mtr_00012 vdd i1 sig6 vdd TP w='w*2' l=l
Mtr_00011 sig6 sig5 q vdd TP w='w*2' l=l
Mtr_00010 sig6 i0 vdd vdd TP w='w*2' l=l
Mtr_00009 q sig9 sig6 vdd TP w='w*2' l=l
Mtr_00008 vdd i0 sig5 vdd TP w='w*2' l=l
Mtr_00007 sig9 i1 vdd vdd TP w='w*2' l=l
Mtr_00006 vss i0 sig2 vss TN w='w' l=l
Mtr_00005 sig2 i1 q vss TN w='w' l=l
Mtr_00004 q sig5 sig3 vss TN w='w' l=l
Mtr_00003 sig3 sig9 vss vss TN w='w' l=l
Mtr_00002 vss i1 sig9 vss TN w='w' l=l
Mtr_00001 sig5 i0 vss vss TN w='w' l=l
.ends

.subckt sensamp bl0 blb0 bl1 blb1 wlen0 wlen1 prech saen bl blb eq0 eq1 blen

Mn1 bl0 wlen0 bl_in vss TN w='g_w' l=g_l
Mn2 blb0 wlen0 blb_in vss TN w='g_w' l=g_l
Mn3 bl1 wlen1 bl_in vss TN w='g_w' l=g_l
Mn4 blb1 wlen1 blb_in vss TN w='g_w' l=g_l
xprechsa bl_in blb_in prech prech

Mneq0 bl0 eq0 blb0 vss TN w='g_w' l=g_l
Mneq1 bl1 eq1 blb1 vss TN w='g_w' l=g_l

Mn5 bl_in blb_in tozero vss TN w='g_w' l=g_l
Mn6 blb_in bl_in tozero vss TN w='g_w' l=g_l
Mn7 vss saen tozero vss TN w='g_w' l=g_l

Mp8 bl_in blb_in toone vdd TP w='g_w' l=g_l
Mp9 blb_in bl_in toone vdd TP w='g_w' l=g_l
Mp10 vdd saenb toone vdd TP w='g_w' l=g_l

xinvsaen saen saenb inv

Mn11 bl blen bl_in vss TN w='g_w' l=g_l
Mn12 blb blen blb_in vss TN w='g_w' l=g_l

.ends

.subckt pi a b r='pi_r' c='pi_c'
r1 a b 'r'
c1 a 0 'c/2'
c2 b 0 'c/2'
.ends

.subckt cells bl0_up blb0_up bl1_dn blb1_dn wl0 wl1

Mn1 bl0_up wl0 mem00 vss TN w='g_w' l=g_l
cmem00 mem00 0 'cellcapa'
Mn2 blb0_dn wl1 mem01 vss TN w='g_w' l=g_l
cmem01 mem01 0 'cellcapa'
Mn3 blb0_up vss vss vss TN w='g_w' l=g_l
Mn4 bl0_dn vss vss vss TN w='g_w' l=g_l

xpi0 bl0_up bl0_dn pi
xpi0b blb0_up blb0_dn pi

Mn5 bl1_up wl0 mem10 vss TN w='g_w' l=g_l
cmem10 mem10 0 'cellcapa'
Mn6 blb1_dn wl1 mem11 vss TN w='g_w' l=g_l
cmem11 mem11 0 'cellcapa'
Mn7 blb1_up vss vss vss TN w='g_w' l=g_l
Mn8 bl1_dn vss vss vss TN w='g_w' l=g_l

xpi1 bl1_up bl1_dn pi
xpi1b blb1_up blb1_dn pi

.ends

.subckt writecell i in inb wen
xinv i ib inv
xinv i ib0 inv
xinv ib0 ib0b inv
xinvw wen wenb inv
xswitchi ib0b in wenb wen switch
xswitchib ib inb wenb wen switch
.ends

.subckt tristate p n o
+ w=1u l=0.08u
Mp1 o p vdd vdd TP w='w*2' l=l
Mn1 o n vss vss TN w='w' l=l
.ends

.subckt latch din dout ck
+ w=1u l=0.08u
MM00 din  ck   dat vss tn w='w' l=l
MM01 din  nck   dat vdd tp w='w*2' l=l
Xi1  dat  dout inv
MM00 dat0  nck   dat vss tn w='w' l=l
MM01 dat0  ck   dat vdd tp w='w*2' l=l
Xi2  dout dat0 inv
Xi3  ck nck  inv
.ends

.subckt dram a<0> a<1> din<0> din<1> dout write ck sel 

xmcell bl0 blb0 bl1 blb1 wl0 wl1 cells
xsensamp bl0 blb0 bl1 blb1 wlen0 wlen1 prech saen so sob prechb prechb blen sensamp

xnandwrite write ck writeb nand
xinvwrite writeb writebb inv
xbuffw writebb write_in buff

* inputs 

xlatmaster0 din<0> dinb<0> ckb latch
xlatslave0 dinb<0> dinbb<0> ck latch

xlatmaster1 din<1> dinb<1> ckb latch
xlatslave1 dinb<1> dinbb<1> ck latch

xinvdin0 dinbb<0> din0b inv
xinvdin1 dinbb<1> din1b inv
xin0 din0b wdin0 wdin0b write_in writecell
xin1 din1b wdin1 wdin1b write_in writecell

xinvsel sel selb inv

xswitchin0 wdin0b so selb sel switch
xswitchin0 wdin0 sob selb sel switch
xswitchin1 wdin1b so sel selb switch
xswitchin1 wdin1 sob sel selb switch

* output
xctrlout sob so ctrl xor
xinvctrl ctrl ctrlb inv
*xnandout so sob ioutctrl nand
xinvout so ioutctrl inv
xswitchctrl ioutctrl iout ctrlb ctrl switch
xinv iout dout inv

* precharge
*xibuff ck prech buff
xdelayprech ck prechi delay w=0.4u
c3 prechi 0 20ff
xdelayprech prechi prech delay w=0.4u
c2 prech 0 20ff
xinvprech prech prechb inv

* decoding
xlatmaster2 a<0> ab<0> ckb latch
xlatslave2 ab<0> abb<0> ck latch
xlatmaster3 a<1> ab<1> ckb latch
xlatslave3 ab<1> abb<1> ck latch
xinvck ck ckb inv
xinvck ckb ckbb inv
xa0 abb<0> ab0 inv
xa1 abb<1> ab1 inv
xa01 ab0 a0 inv
xa11 ab1 a1 inv
xnab0 ab0 ckbb ab0act nand
xnab1 ab1 ckbb ab1act nand
xna0 a0 ckbb a0act nand
xna1 a1 ckbb a1act nand

* wl
xinvab0 ab0act wl0 inv
xinva0 a0act wl1 inv

* wlen
xinvab1 ab1act wlen0 inv
xinva1 a1act wlen1 inv

* saen
xnorsa wlen0 wlen1 presaen nor
xdelay0 presaen saen delay w=0.4u
c1 saen 0 100ff
*xdelay1 saenb saen delay w=0.4u

* blen
xnorsablen wlen0 wlen1 preblen nor
xinvblen preblen blen inv

.ends

